US07253196B2
2-(cycloheptylamino)-5-(pyridin-3-ylmethyl)-1,3-thiazol-4(5H)-one
Synthesis was performed from (2S)-2-amino-3-pyridin-3-ylpropanoic acid and N-cycloheptylthiourea according to Method E and C.

reactant | (2S)-2-amino-3-pyridin-3-ylpropanoic acid | N[C@H](C(=O)O)CC=1C=NC=CC1 | C8H10N2O2
reactant | N-cycloheptylthiourea | C1(CCCCCC1)NC(=S)N | C8H16N2S
product | 2-(cycloheptylamino)-5-(pyridin-3-ylmethyl)-1,3-thiazol-4(5H)-one | C1(CCCCCC1)NC=1SC(C(N1)=O)CC=1C=NC=CC1 | C16H21N3OS
